US06127541
2-(4-Ethoxycarbonyl-1-piperazinyl)benzaldehyde
2-Fluorobenzaldehyde (3.0 g, 24.2 mmol), 1-(ethoxycarbonyl)piperazine (4.2 ml, 28.7 ml), and calcium carbonate (2.46 g, 24.6 mmol) were reacted at 120° C. for 7.5 hours in dimethylsulfoxide (12 ml). After the reaction was completed, the insolubles were filtered off and the resulting filtrate was extracted by adding water and ethyl acetate thereto. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give oily substances. The resulting oily substances were purified by silica gel column chromatography (eluent: from hexane/ethyl acetate=4/1 to hexane/ethyl acetate=1/1) to give the title compound (4.29 g, 68%).

reactant | 2-Fluorobenzaldehyde | 24.2 mmol, 3.0 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 1-(ethoxycarbonyl)piperazine | 4.2 ml | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | calcium carbonate | 24.6 mmol, 2.46 g | C([O-])([O-])=O.[Ca+2]
solvent | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
product | 2-(4-Ethoxycarbonyl-1-piperazinyl)benzaldehyde | 4.29 g, 68% | C(C)OC(=O)N1CCN(CC1)C1=C(C=O)C=CC=C1 | C14H18N2O3
